US06936602B1
In water:ethanol:toluene (1:1:10, v/v, 18.0 ml) were dissolved (4-diethylamino)phenyl borate (234 mg) and 7-bromo-1-methyl-N-[4-[[N-methyl-N-(tetrahydro-2H-pyran-4-yl)amino]methyl]phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxamide (391 mg). To the solution was added potassium carbonate (268 mg), and the mixture was stirred under argon atmosphere at room temperature for 30 minutes. To the mixture was added tetrakistriphenylphosphinepalladium (37 mg), and the mixture was heated to reflux under argon atmosphere for 10 hours. The mixture was diluted with ethyl acetate, and washed with water and saturated brine, and the organic layer was dried with anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified with silica gel column chromatography (45 g, ethyl acetate:ethanol=20:1) and recrystallized from ethanol to give 7-(4-diethylaminophenyl)-1-methyl-N-(4-[[N-methyl-N-(tetrahydro-2H-pyran-4-yl)amino]methyl]phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxamide (145 mg, 33%) as yellow crystals.

reactant | 7-bromo-1-methyl-N-[4-[[N-methyl-N-(tetrahydro-2H-pyran-4-yl)amino]methyl]phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxamide | 391 mg | BrC=1C=CC2=C(C=C(CCN2C)C(=O)NC2=CC=C(C=C2)CN(C2CCOCC2)C)C1 | C25H30BrN3O2
reactant | potassium carbonate | 268 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water ethanol toluene | 18.0 ml | O.C(C)O.C1(=CC=CC=C1)C
catalyst | tetrakistriphenylphosphinepalladium | 37 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(4-diethylaminophenyl)-1-methyl-N-(4-[[N-methyl-N-(tetrahydro-2H-pyran-4-yl)amino]methyl]phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxamide | 145 mg, 33% | C(C)N(C1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2C)C(=O)NC2=CC=C(C=C2)CN(C2CCOCC2)C)C1)CC | C35H44N4O2
